Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
rectal bleeding/chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
Mr. ___ is an ___ with a history of ulcerative proctitis, 
HTN, HL who is transferred from ___ with atrial 
fibrillation and ischemic EKG changes in the setting of rectal 
bleeding.
After presenting with rectal bleeding and possible chest pain 
(with negative troponins x3), he experienced some improvement 
with administration of IV steroids, but continued to have bloody 
diarrhea. Colonoscopy on hospital day 2 revealed ___, but 
very little active bleeding. Following the procedure, he 
developed chest pressure in the setting of rapid atrial 
fibrillation (HR to 140s) and EKG with diffuse ST segment 
depressions. He was transferred to the ___ Care 
Unit, where he received IV Cardizem and digoxin, with subsequent 
reduction resolution of chest pressure and reduction in HR and 
conversion to sinus rhythm over ___ hours. Troponins peaked at 
1.8. EKG on the morning of transfer was reportedly essentially 
at baseline without ST segment changes. He is now transferred to 
___ further management, 
including cardiac catheterization and/or Persantine thallium 
study.
  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia +, Hypertension 
+  
2. CARDIAC HISTORY:  
-CABG: None 
-PERCUTANEOUS CORONARY INTERVENTIONS: None 
-PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY: 
Diverticulitis
Bullous pemphigoid followed by Dr. ___ proctitis
___
Hyperlipidemia
BPH with a history of prostate biopsy
Incisional hernia
Inguinal hernia repair
Colon resection with colostomy and subsequent reversal
Right ear surgery
___ surgery
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise ___. 
 
Physical Exam:
ADMISSION EXAM
VS: 98, 57, 156/73, 18, 94%  
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctivae pink, 
no pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with no JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. 
Respirations  unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

DISCHARGE EXAM
VS: 98, 57, 156/73, 18, 94%  
I/O 24h: 687/100
Telemetry: Sinus rhythm at ___
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctivae pink, 
no pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with no JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. 
Respirations  unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 
 
Pertinent Results:
ADMISSION LABS
___ 05:20PM BLOOD ___ 
___ Plt ___
___ 05:20PM BLOOD ___ 
___
___ 05:20PM BLOOD ___

DISCHARGE LABS
___ 01:30PM BLOOD ___
___ 01:06AM BLOOD ___ 
___ Plt ___
___ 01:06AM BLOOD ___ 
___
___ 01:06AM BLOOD ___

CARDIAC BIOMARKERS
___ 05:20PM BLOOD ___
___ 06:07AM BLOOD ___
___ 01:06AM BLOOD ___

INFLAMMATORY MARKERS
___ 06:05AM BLOOD ___
___ 06:05AM BLOOD ___

URINE
___ 05:50PM URINE ___ 
___
___ 05:50PM URINE RBC-<1 ___ 
Epi-<1
___ 05:50PM URINE ___ Sp ___

CULTURES
URINE CULTURE ___ - NO growth
BLOOD CULTURE ___ X1, ___ X1 - No growth to date
STOOL ___ ___ negative

PERTINENT STUDIES
___ Cardiac cath
COMMENTS:     
1. Selective coronary angiography of this ___ system
demonstrated a 40% ostial LMCA stenosis. There was a 90% 
stenosis of the
D1 and a 50% ___ of the D2. The LCX had a 40% proximal
stenosis. The RCA was a small, ___ vessel with serial 
50%
lesions.
2. Limited resting hemodynamics revealed severe systemic 
hypertension
with a central aortic pressure of 200/89. The patient was 
initiated on a
nitroglycerin drip during the procedure.
 
FINAL DIAGNOSIS:    
1. Moderate disease of the LM, LAD and OM. Severe narrowing of 
the
diagonal branch.
2. Given his history of ___ hold off on 
revascularization
given his risk of bleeding.

ECHO ___
Conclusions
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). There is no ventricular septal defect. Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is mild pulmonary artery systolic hypertension. 
There is no pericardial effusion.  

KUB ___
FINDINGS:  There is no free air.  There is no pneumatosis.  
There are multiple spiral tacks from a laparoscopic hernia 
repair as well as right upper quadrant surgical clips.  There is 
a small amount of stool in the ascending colon.  There is a 
nonspecific bowel gas pattern.  There are several phleboliths in 
the pelvis.
 
IMPRESSION:  No free air.

___ RENAL ULTRASOUND
RENAL ULTRASOUND:  The kidneys demonstrate normal echogenicity 
and
corticomedullary differentiation without stones, hydronephrosis, 
or suspicious lesions.  Right kidney measures 8.5 cm and the 
left kidney measures 9.4 cm. Urinary bladder is underdistended, 
limiting evaluation.
DOPPLER:
RIGHT SIDE:  Resistive indices of intrarenal arteries range from 
0.65 to 0.78.  The intrarenal arteries demonstrate normal 
waveform with brisk systolic upstroke.  The main renal artery 
demonstrates normal waveform with brisk systolic upstroke, peak 
systolic velocity of 61.9 cm/sec, and a resistive index of 0.79. 
 The main renal vein is patent.
LEFT SIDE:  The resistive indices of the intrarenal arteries 
range from 0.70 to 0.79.  The intrarenal arteries demonstrate 
normal waveforms with brisk systolic upstroke.  The main renal 
artery demonstrates normal waveform with brisk systolic 
upstroke, peak systolic velocity of 70.0 cm/sec, and a resistive 
index of 0.8. The main renal vein is patent.
IMPRESSION:  Normal sonographic appearance of the kidneys 
without evidence of renal artery stenosis.  Mildly elevated 
RI's.

___ CT HEAD w/o CONTRAST
FINDINGS:  There is no evidence of hemorrhage, edema, mass, mass 
effect, or
infarction.  The ventricles and sulci are mildly prominent 
consistent with
___ atrophy.  The visualized paranasal sinuses and 
mastoid air cells are well aerated. There is calcification of 
the right vertebral artery and the cavernous carotid arteries 
bilaterally.
IMPRESSION:  Vascular calcifications. Otherwise normal study.
 
Brief Hospital Course:
Mr. ___ is an ___ with a history of ulcerative proctitis, 
HTN, HL who is transferred from ___ with atrial 
fibrillation and ischemic EKG changes in the setting of rectal 
bleeding for NSTEMI workup.

ACTIVE ISSUES  
# CORONARIES ARTERY DISEASE: Based on the records from ___ 
___, pt apparently had STEMI vs demand ischemia.  During 
the entire hospitalization here, pt remained asymptomatic, 
without EKG changes or cardiac biomarker elevations.  He 
underwent successful cardiac catheterization, which showed 
multivessel coronary artery disease, including 40% LM, 40% LCx, 
90% D1, 50% D2 diseases.  No intervention was made given his 
active GIB and risk of antiplatelet treatment.  His surface ECHO 
showed normal LV function with preserved EF at 55% and 1+ AR.  
Pt was given aspirin 325 mg, without plavix given active UC 
flare.  We also started him on atorvastatin 80 mg daily, and 
uptitrated carvediolol to 12.5 mg twice a day.
  
# ULCERATIVE COLITIS FLARE: Pt was found to have ___ at 
outside hospital.  Multiple biopsy were consistent with 
ulcerative colitis flare.  His infectious workup were negative 
at ___ (negative C.diff and negative stool culture). 
 Pt was evaluated by the gastroenterology team during this 
admission.  He was treated with mesalamine 800 mg tid (bid at 
home), and iv methylprednisolone 20 mg tid.  During this 
admission, pt had intermittent loose stool and rectal bleed.  
His WBC remains elevated upto 18, with no bandemia.  His blood, 
urine culture and C.diff remained negative.  Inflammatory 
markers, including CRP and ESR were negative.  He otherwise 
remained afebrile, with no abdominal symptoms, and tolerated 
regular oral diet well.  One unit pRBC was given on ___, and 
appropriate HCT improvement was observed.  Pt was switched to 
oral prednisone 40 mg on ___, and remained stable for 24 
hours.  

# ATRIAL FIBRILLATION: Pt was found to have ___ atrial 
fibrillation, with CHADS score of 2.  No anticoagulation was 
given considering his active GI bleed.  He spontaneously 
converted to sinus rhythm prior to discharge.

# Fall: Pt had a fall on ___.  He reported feeling dizzy at 
night while going to the bathroom, and fell to the ground.  The 
event was not witnessed, and there appears to be no loss of 
consciousness as reported by nursing staff who came shortly 
afterwards.  The nature of the fall is likely mechanical vs 
presyncope secondary to orthostatic hypotension.  Pt was found 
to be mildly orthostatic with BP 152/70 decreasing to 130/68, 
and HR 65 increasing to 75 upon standing.  This is likely in the 
setting of ulcerative colitis flare and blood loss.  A CT head 
was performed, with no evidence of intracranial hemorrhage.  
There were no recorded arrhythmia on telemetry.  His 
neurological exam was intact after the event.  
  

CHRONIC ISSUES
# Hypertension: Pt has documented history of hypertension.  His 
blood pressure was found to be above his baseline.  A renal 
artery ultrasound was performed, which did not reveal stenosis.  
This is felt most likely a result of steroid use.  We 
discontinued his atenolol and uptitrated carvediolol to 12.5 mg 
twice a day.
  
# Hyperlipidemia: We started pt on atorvastatin for better 
cholesterol control given the diagnosis of angiography proven 
coronary artery disease. 
  
TRANSITIONAL ISSUES
# CODE STATUS: Full
# PENDING STUDIES: 
  - Blood culture ___ pending
# MEDICATION CHANGES
  - START aspirin 325 mg daily
  - CHANGE pravastatin to atorvastatin 80 mg daily
  - CHANGE atenolol to carvediolol 12.5 mg bid
  - INCREASE mesalamine to 800 mg tid
  - START prednisone 40 mg daily with a slow taper of 10 mg 
every week to 20 mg and 5 mg every week afterwards.  The taper 
should be followed by his outpatient gastroenterologist
# FOLLOWUP PLAN
  - Home ___ service
  - PCP followup 
  - ___ followup
  - Consider decreasing aspirin to 81 mg one month after the 
NSTEMI
  - Consider uptitrate mesalamine to maintenance therapy
  - Please arrange cardiology followup for his coronary artery 
disease and may consider intervention once ulcerative colitis is 
in control
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Calcium Carbonate 500 mg PO BID 
3. Atenolol 25 mg PO DAILY 
4. Pravastatin 20 mg PO DAILY 
5. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
6. Mesalamine ___ 800 mg PO BID 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO BID 
2. Mesalamine ___ 800 mg PO TID 
RX *mesalamine [Asacol HD] 800 mg 1 tablet(s) by mouth three 
times a day Disp #*90 Tablet Refills:*0
3. Multivitamins 1 TAB PO DAILY 
4. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
5. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
6. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
7. Carvedilol 12.5 mg PO BID 
RX *carvedilol 3.125 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
8. PredniSONE 40 mg PO DAILY 
RX *prednisone 10 mg 4 tablet(s) by mouth once a day Disp #*70 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
 - non ST elevation myocardial infarction
 - ulcerative colitis
 - atrial fibrillation
 - hypertension
Secondary diagnosis: 
 - Hyperlipidemia
 - diverticulosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to our hospital from ___ for 
heart issues.  You were found to have atrial fibrillation and 
some injury to your heart muscle.  You underwent cardiac 
catheterization which showed diffuse coronary artery disease.  
No intervention was made in the cath lab in the setting of 
ulcerative colitis flare and GI bleed.  You were treated with iv 
steroids for your ulcerative colitis.  Your symptom is stable 
now, and we felt you could continue treatment at home. 

Please note the changes that we made in your medication.
- START aspirin 325 mg daily
- CHANGE pravastatin to atorvastatin 80 mg daily
- CHANGE atenolol to carvediolol 12.5 mg twice a day
- INCREASE mesalamine to 800 mg three times a day
- START prednisone 40 mg daily for one week, change to 30 mg 
daily for one week and 20 mg daily for one week.  You need to 
discuss with your gastroenterologist for further tapering.

We also arranged several followup appointment.  
 
Followup Instructions:
___